US07465803B2
B) Synthesis of trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoyl chloride
To a suspension of trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoic acid (4 g, 16.93 mmoles) in toluene (70 ml) and dimethylformamide (10 ml) cooled in an ice bath, oxalyl chloride (4.30 g, 33.87 mmoles) is dropped. The mixture is maintained under stirring at 0° C. for 1 hour then the temperature is let reach the room value and it is left for 2 hours. The solvent is removed at reduced pressure and the raw product is used without further purification.

reactant | trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoic acid | 16.93 mmoles, 4 g | C(C)(=O)OC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C12H12O5
reactant | oxalyl chloride | 33.87 mmoles, 4.30 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoyl chloride | C(C)(=O)OC1=C(C=C(C=C1)/C=C/C(=O)Cl)OC | C12H11ClO4
